US07855166B2
0.64 g (26.57 mmol) of sodium hydride is introduced in 10 ml of dry tetrahydrofuran and this initial charge is slowly admixed at room temperature with 2.18 g (26.57 mmol) of 2,2-difluoroethanol. The reaction mixture is stirred at room temperature until the evolution of gas ceases. Thereafter 4.00 g (13.29 mmol) of 2-fluoro-6-iodo-benzenesulfonamide, obtained from the reaction of N-(tert-butyl)-2-fluoro-6-iodobenzenesulfonamide with trifluoroacetic acid in analogy to example A3, in solution in 20 ml of dry tetrahydrofuran, are added dropwise. This reaction mixture is exposed to a microwave energy of 100 watts at 150° C. for 30 min. Thereafter the pH is adjusted to 4-5 using 2 N hydrochloric acid and the mixture is partitioned in water/ethyl acetate, the organic phase being dried and evaporated. This gives 3.00 g (62% of theory) of 2-(2,2-difluoroethoxy)-6-iodobenzenesulfonamide.

reactant | sodium hydride | 26.57 mmol, 0.64 g | [H-].[Na+]
reactant | 2,2-difluoroethanol | 26.57 mmol, 2.18 g | FC(CO)F | C2H4F2O
reactant | N-(tert-butyl)-2-fluoro-6-iodobenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1I)F | C10H13FINO2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-fluoro-6-iodo-benzenesulfonamide | 13.29 mmol, 4.00 g | FC1=C(C(=CC=C1)I)S(=O)(=O)N | C6H5FINO2S
